US05563163
A mixture of 3-thiophene carboxylic acid (0.26 g, 2.0 mmol), K2CO3 (0.28 g, 2.0 mmol) and DMF (4 ml) was stirred for 1 hour. 2-Chloromethyl-4-isopropyl-6-methoxy-saccharin (0.61 g, 2.0 mmol) was then added and the mixture was stirred for 24 hours. Water (20 ml) was added to the reaction mixture and the solution was extracted with ether (2×40 ml). The organic layer was separated, washed with water, then brine and was dried over anhydrous Na2SO4. The solvent was removed in vacuo and the solid residue was recrystallized from toluene/hexane to afford 0.5 g (65%) of 4-isopropyl-6-methoxy-2-saccharinylmethyl thiophene-3-carboxylate as a white powder, m.p. 125°-127° C.

reactant | 3-thiophene carboxylic acid | 2.0 mmol, 0.26 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | K2CO3 | 2.0 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 2-Chloromethyl-4-isopropyl-6-methoxy-saccharin | 2.0 mmol, 0.61 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14ClNO4S
solvent | Water | 20 ml | O | H2O
product | 4-isopropyl-6-methoxy-2-saccharinylmethyl thiophene-3-carboxylate | 0.5 g, 65% | S1C=C(C=C1)C(=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C17H17NO6S2
